US09328134B2
(3aS,4R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-ol:
Dimethyl (((3aS,4R,6S,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl) methyl)phosphonate and dimethyl (((3aS,4R,6R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate: In a 25 mL round bottom flask, a stirred solution of (3aS,4R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-ol (400 mg, 1.07 mmol, 1eq), in dry THF (10 mL) maintained at 0° C. under nitrogen atmosphere, was treated with LiHMDS (1M in THF, 0.39 mL, 3.22 mmol, commercially available from Sigma Aldrich, India) at 0° C. The reaction mixture was stirred at 0° C. for 30 min under a nitrogen atmosphere and treated with tetramethyl methylenebis(phosphonate) (800 mg, 3.22 mmol, Alfa Asear, India) in THF (8 mL) at the same temperature. The resulting reaction mixture was stirred at rt for 36 h. Upon completion of the reaction (TLC, 30% EtOAc in hexane, Rf 0.4), the reaction mixture was quenched with saturated NaHCO3 solution at 0° C. and stirred for 5 min. The mixture was diluted with water (40 mL) and extracted with EtOAc (2×20 mL). The organic extract was washed with water, brine (20 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue obtained was purified by silica gel (60-120 mesh) column chromatography (gradient elution 5-10% EtOAc-hexanes) to give dimethyl (((3aS,4R,6S,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate and dimethyl (((3aS,4R,6R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate as a sticky oils. Dimethyl (((3aS,4R,6S,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate (100 mg, 20%): 1H NMR (400 MHz, CDCl3) δ 4.34-4.32 (m, 1H), 4.22-4.17 (m, 1H), 4.06 (t, J=6.0 Hz 1H), 3.74-3.69 (m, 7H), 3.60 (t, J=7.2 Hz 1H), 2.38-2.29 (m, 1H), 2.06-1.95 (m, 1H), 1.52 (s, 3H), 1.35 (s, 3H), 0.9 (s, 9H), 0.13 (s, 3H), 0.06 (s, 3H); 19F NMR (376.17 MHz, CDCl3) δ −72.32 ppm. Dimethyl (((3aS,4R,6R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate (70 mg, 14%): 1H NMR (400 MHz, CDCl3) δ 4.50-4.42 (m, 1H), 4.39-4.32 (m, 1H), 4.22-4.18 (m, 1H), 4.11-4.04 (m, 1H), 3.82 (m, 1H), 3.76-3.70 (m, 6H), 2.14-1.87 (m, 2H), 1.52 (s, 3H), 1.35 (s, 3H), 0.9 (s, 9H), 0.13 (s, 3H), 0.06 (s, 3H) ppm.

reactant | Dimethyl (((3aS,4R,6S,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate | 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]2[C@@H]([C@@H](O[C@@H]1CP(OC)(OC)=O)C(F)(F)F)OC(O2)(C)C | C18H34F3O7PSi
reactant | Dimethyl (((3aS,4R,6R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-yl)methyl)phosphonate | 70 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]2[C@@H]([C@@H](O[C@H]1CP(OC)(OC)=O)C(F)(F)F)OC(O2)(C)C | C18H34F3O7PSi
product | (3aS,4R,7S,7aR)-7-((tert-butyldimethylsilyl)oxy)-2,2-dimethyl-4-(trifluoromethyl)tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyran-6-ol | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H]2[C@@H]([C@@H](OC1O)C(F)(F)F)OC(O2)(C)C | C15H27F3O5Si
